US08957078B2
[4-Chloro-5-(4-methylpiperazin-1-yl)pyridazin-3-yl]hydrazine (145 mg, 0.5974 mmol) and copper sulfate pentahydrate (522.1 mg, 2.091 mmol) were dissolved in water (9 mL) and stirred at 95° C. for ˜30 minutes. The brown suspension was allowed to cool and 15 wt % NaOH (2 mL) was added. The resulting suspension was heated to 95° C. for ˜5 mins, allowed to cool to RT and filtered through a pre-wetted (10% MeOH in DCM) celite cartridge (10 g). The cartridge was washed with 10% MeOH in DCM and the filtrate was partitioned with water. The aqueous layer was extracted with further 10% MeOH in DCM (3×10 mL) and the combined organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography (7.5% MeOH/1% NH 40H in DCM, ˜75 mL silica) to give 4-chloro-5-(4-methylpiperazin-1-yl)pyridazine as an off-white solid (100.6 mg, 79% Yield).

reactant | [4-Chloro-5-(4-methylpiperazin-1-yl)pyridazin-3-yl]hydrazine | 0.5974 mmol, 145 mg | ClC1=C(N=NC=C1N1CCN(CC1)C)NN | C9H15ClN6
reactant | NaOH | 2 mL | [OH-].[Na+]
solvent | water | 9 mL | O | H2O
catalyst | copper sulfate pentahydrate | 2.091 mmol, 522.1 mg | O.O.O.O.O.S(=O)(=O)([O-])[O-].[Cu+2]
product | 4-chloro-5-(4-methylpiperazin-1-yl)pyridazine | 100.6 mg, 79% Yield | ClC1=CN=NC=C1N1CCN(CC1)C | C9H13ClN4
